US09169209B2
A. N-(4-((3-(trifluoromethoxy)phenyl)sulfonyl)phenyl)acetamide
To a solution of sodium 4-acetamidobenzenesulfinate dehydrate (128 mg, 0.5 mmol), 3-trifluoromethoxy-phenylboronic acid (144 mg, 0.75 mmol) and Et3N (0.313 mL, 2.25 mmol) in 1,4-dioxane (4 mL) and DMSO (4 mL) is added Cu(OAc)2 (114 mg, 0.625 mmol). The mixture is heated at 60° C. for 16 h then cooled to ambient temperature. EtOAc (12 ml) and brine (6 ml) is added followed by concentrated NH4OH (0.6 mL) and the mixture is stirred at ambient temperature for 15 min. The layers are separated and the aqueous layer is extracted with EtOAc (6 mL). The combined extracts are dried (Na2SO4) and evaporated. The residue is purified by preparative TLC with 2:1 EtOAc/hexanes to give 104 mg (57%) white solid.

reactant | sodium 4-acetamidobenzenesulfinate | 0.5 mmol, 128 mg | C(C)(=O)NC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | 3-trifluoromethoxy-phenylboronic acid | 0.75 mmol, 144 mg | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | Et3N | 2.25 mmol, 0.313 mL | CCN(CC)CC | C6H15N
reactant | NH4OH | 0.6 mL | [NH4+].[OH-]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | brine | 6 ml | [Cl-].[Na+].O
catalyst | Cu(OAc)2 | 0.625 mmol, 114 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | EtOAc | 12 ml | CCOC(=O)C | C4H8O2
product | N-(4-((3-(trifluoromethoxy)phenyl)sulfonyl)phenyl)acetamide | 104 mg, 57% | FC(OC=1C=C(C=CC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)(F)F | C15H12F3NO4S
